US05886014
4-Acetoxy-N-methyl-3,5,6-trimethyl-1,2-phenylenediamine
A solution of 2.65 g of N-methyl-4-acetoxy-2,3,5-trimethyl-6-nitroaniline (prepared as described in Preparation 18) in a mixture of 20 ml ethanol and 20 ml of ethyl acetate was shaken at room temperature for 3.5 hours and then at 40° C. for 3 hours in an atmosphere of hydrogen and in the presence of 0.2 g of platinum oxide. At the end of this time, the reaction mixture was filtered to remove the platinum oxide and the filtrate was freed from the solvent by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 1.3 g of title compound, melting at 113°-116° C.

reactant | N-methyl-4-acetoxy-2,3,5-trimethyl-6-nitroaniline | 2.65 g | CNC1=C(C(=C(C(=C1[N+](=O)[O-])C)OC(C)=O)C)C | C12H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 4-Acetoxy-N-methyl-3,5,6-trimethyl-1,2-phenylenediamine | 1.3 g | C(C)(=O)OC1=C(C(=C(C(=C1C)C)NC)N)C | C12H18N2O2
